US08791107B2
4-(5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)-1H-indol-2-ol
The title compound was prepared in a manner similar to EXAMPLE 1 using 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 50 mg, 0.221 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-2-ol (30 mg, 0.116 mmol), and PdCl2(dppf) (12.91 mg, 0.018 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.95-3.03 (m, 2H), 3.20-3.30 (m, 3H), 3.77-3.83 (m, 2H), 3.88-3.95 (m, 1H), 4.00-4.08 (m, 1H), 4.36-4.45 (m, 1H), 6.01-6.15 (m, 1H), 6.78-6.85 (m, 1H), 7.18-7.26 (m, 1H), 7.62-7.68 (m, 1H), 7.74-7.80 (m, 1H), 10.23-10.52 (m, 1H), 12.27-12.56 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C17H17N5O2, 323.14. found 324.3.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.221 mmol, 50 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-2-ol | 0.116 mmol, 30 mg | CC1(OB(OC1(C)C)C1=C2C=C(NC2=CC=C1)O)C | C14H18BNO3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.018 mmol, 12.91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)-1H-indol-2-ol | N1=C(N=CC=2NCC3N(C12)CCOC3)C3=C1C=C(NC1=CC=C3)O | C17H17N5O2
